US07649004B2
N-(3-Bromo-6-methyl-pyridin-2-yl)-acetamide
Acetic anhydride (21 mL, 223 mmol) was added to a solution of 2-amino-3-bromo-6-picoline (10 g, 53.46 mmol) in dioxan (50 mL) and the mixture was stirred at 50° C. for 18 hours. The solvent was then evaporated under reduced pressure and the residue was diluted with saturated sodium hydrogen carbonate solution (150 mL). The precipitate was filtered off, washed with water and re-dissolved in dichloromethane, and the filtrate was neutralised to pH7 with saturated sodium hydrogen carbonate solution and extracted with dichloromethane (3×100 mL). The organic solutions were combined, washed with water, dried over magnesium sulfate and concentrated in vacuo to give a white solid. Purification of the solid by column chromatography on silica gel, eluting with ethyl acetate:heptane, 75:25, afforded the title compound as a white solid in 75% yield, 9.2 g.

reactant | Acetic anhydride | 223 mmol, 21 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-3-bromo-6-picoline | 53.46 mmol, 10 g | NC1=NC(=CC=C1Br)C | C6H7BrN2
solvent | dioxan | 50 mL | O1CCOCC1 | C4H8O2
product | N-(3-Bromo-6-methyl-pyridin-2-yl)-acetamide | 75% yield | BrC=1C(=NC(=CC1)C)NC(C)=O | C8H9BrN2O
